US06080743
a) N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-valeric acid amide
79 μl (0.567 mmol) of triethylamine and 55 μl (0.454 mmol) of n-valeroyl chloride are added to a suspension of 100 mg (0.378 mmol) of 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline in 2 ml of tert-butyl methyl ether and the mixture is stirred at room temperature for 16 hours. The mixture is then taken up in dichloromethane, washed with 1 N hydrochloric acid and with 1 N sodium hydroxide solution, dried over sodium sulfate and concentrated by evaporation. The title compound is obtained in the form of a yellowish powder.

reactant | triethylamine | 0.567 mmol, 79 μl | C(C)N(CC)CC | C6H15N
reactant | n-valeroyl chloride | 0.454 mmol, 55 μl | CCCCC(=O)Cl | C5H9ClO
reactant | 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.378 mmol, 100 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
solvent | tert-butyl methyl ether | 2 ml | COC(C)(C)C | C5H12O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-valeric acid amide | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(CCCC)=O)[N+](=O)[O-] | C16H20N4O5
